US09212168B2
Preparation 23: 4′-{2-[(S)-7-((S)-2-Methoxycarbonylamino-3-methyl-butyryl)-1,4-dioxa-7-aza-spiro[4.4]non-8-yl]-1H-imidazol-4-yl}-biphenyl-4-carboxylic acid
To a solution of ((S)-1-{(S)-8-[4-(4-Bromo-phenyl)-1H-imidazol-2-yl]-1,4-dioxa-7-aza-spiro[4.4]nonane-7-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (450 mg, 0.89 mmol) in dioxane (8 mL) and water (4 mL) was added 4-boronobenzoic acid (154 mg, 0.93 mmol), sodium carbonate (189 mg, 1.78 mmol), and tetrakis(triphenylphosphine)-palladium(0) (104 mg, 0.09 mmol) and the reaction mixture was stirred at reflux for 3 h under nitrogen. The pH was adjusted to 1 with 2 M HCl, and the reaction mixture was extracted with EtOAc (3×20 mL). The organic layers were combined, dried over sodium sulfate, concentrated and purified by flash chromatography (eluted with methanol in DCM, 0 to 7%) to provide the title intermediate as a yellow solid (330 mg, 68% yield). (m/z): [M+H]+ calcd for C29H32N4O7 549.23. found 549.3. 1H NMR (CH3OD, 400) δ (ppm) 8.13-8.11 (m, 2H), 7.90-7.78 (m, 7H), 5.39-5.34 (m, 1H), 4.19-3.91 (m, 7H), 3.66 (s, 3H), 2.72-2.65 (m, 1H), 2.48-2.41 (m, 1H), 2.12-1.95 (m, 1H), 0.92-0.85 (m, 6H).

reactant | ((S)-1-{(S)-8-[4-(4-Bromo-phenyl)-1H-imidazol-2-yl]-1,4-dioxa-7-aza-spiro[4.4]nonane-7-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.89 mmol, 450 mg | COC(N[C@@H](C(C)C)C(=O)N1CC2(OCCO2)C[C@H]1C=1NC=C(N1)C1=CC=C(C=C1)Br)=O | C22H27BrN4O5
reactant | 4-boronobenzoic acid | 0.93 mmol, 154 mg | B(O)(O)C1=CC=C(C(=O)O)C=C1 | C7H7BO4
reactant | sodium carbonate | 1.78 mmol, 189 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | 2 M | Cl | ClH
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | water | 4 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.09 mmol, 104 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4′-{2-[(S)-7-((S)-2-Methoxycarbonylamino-3-methyl-butyryl)-1,4-dioxa-7-aza-spiro[4.4]non-8-yl]-1H-imidazol-4-yl}-biphenyl-4-carboxylic acid | 330 mg, 68% yield | COC(=O)N[C@H](C(=O)N1CC2(OCCO2)C[C@H]1C=1NC=C(N1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O)C(C)C | C29H32N4O7
